* source ISRC
R_R1         0 N01285  1.1k  
R_R2         N01368 N01285  9.1k  
R_R4         0 N01368  1k  
V_V4         N01249 0  
+PULSE 0 0.1V 0 3us 3us 100us 200us
E_U3         N01368 0 VALUE {LIMIT(V(N01249,N01285)*1E6,-15V,+15V)}
V_V6         N08509 0 12
E_U4         N08658 0 VALUE {LIMIT(V(N08518,N08581)*1E6,-15V,+15V)}
R_R8         0 N08518  10R  
R_R9         N08518 N08509  220  
R_R10         0 N08581  1k  
R_R11         N08581 N08658  5k  
R_R         N09211 0  17R  
V_V7         N09211 0 5
